US07569592B2
2-Hydrazinopyridine (7.6 g, 70 mmol), malondialdehyde-bis-(dimethylacetal) (11.5 mL, 70 mmol) and HCl (10 M, 7 mL) in EtOH (100 mL) were heated at 75° C. After 2 h, the resulting reaction mixture was cooled to ambient temperature and concentrated in vacuo to a give a brown solid. This was suspended in H2O (100 mL) and EtOAc (100 mL), and NaHCO3 added until there was no further effervescence. The EtOAc layer was then separated and the aqueous layer shaken with EtOAc (3×100 mL). The combined organic layers were dried over Na2SO4 and concentrated to afford 2-(1H-pyrazol-1-yl)pyridine as a brown oil which was used without further purification. MS (ESI) 147 (M+H)+

reactant | 2-Hydrazinopyridine | 70 mmol, 7.6 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | HCl | 10 M, 7 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOH | 100 mL | CCO | C2H6O
solvent | H2O | 100 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-(1H-pyrazol-1-yl)pyridine | N1(N=CC=C1)C1=NC=CC=C1 | C8H7N3
